US06972340B2
3-(4-amino-1-naphthyl)propanoic acid
To a mixture of 4-bromo-1-naphthylamine (4.44 g, 20.0 mmol), potassium acetate (6.28 g, 64.0 mmol), tetrabutylammonium chloride hydrate (6.1 g, 22 mmol), palladium(II)acetate (224 mg, 1.0 mmol) and tri-o-tolylphosphine (1.22 g, 4.0 mmol) was added DMF (60 mL) and methyl acrylate (2.3 mL, 25 mmol). The reaction was heated to 100° C. under N2 for 2 hours, poured into water (300 mL) and extracted with diethyl ether (3×50 mL). The combined ether layers were washed with brine (1×50 mL), dried (MgSO4), filtered, and concentrated under reduced pressure. The product was purified on silica gel eluting with 30% ethyl acetate/hexanes to provide the titled compound 2.5 g, 55%).

reactant | 4-bromo-1-naphthylamine | 20.0 mmol, 4.44 g | BrC1=CC=C(C2=CC=CC=C12)N | C10H8BrN
reactant | potassium acetate | 64.0 mmol, 6.28 g | C(C)(=O)[O-].[K+]
reactant | tri-o-tolylphosphine | 4.0 mmol, 1.22 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | methyl acrylate | 25 mmol, 2.3 mL | C(C=C)(=O)OC | C4H6O2
catalyst | tetrabutylammonium chloride hydrate | 22 mmol, 6.1 g | O.[Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium(II)acetate | 1.0 mmol, 224 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 300 mL | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 3-(4-amino-1-naphthyl)propanoic acid | 2.5 g, 55% | NC1=CC=C(C2=CC=CC=C12)CCC(=O)O | C13H13NO2
